US05206257
A mixture of 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole (3.31 g, 0.01 mol) and sodium hydroxide (1.0 g, 0.025 mol) in water (10 ml) was stirred and heated at 40° C. overnight. Concentrated hydrochloric acid was added to the mixture and the precipitated solid was filtered off and purified by medium pressure liquid chromatography (mplc) on silica eluted with a mixture of ethyl acetate and dichloromethane (1:1). Recrystallization of the white solid from a mixture of ethyl acetate and petroleum spirit (bp 60°-80° C.) (1:1) gave 5-cyano-2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole-4-carboxamide (0.61 g), m.p. 254°-255° C., as a white solid.

reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole | 0.01 mol, 3.31 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C#N)C#N | C12H3Cl2F3N4
reactant | sodium hydroxide | 0.025 mol, 1.0 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 5-cyano-2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole-4-carboxamide | 0.61 g | C(#N)C1=C(N=C(N1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)N | C12H5Cl2F3N4O
